US09056874B2
(±)-tert-Butyl 4-(1-(5-cyano-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoro-1-((2-hydroxyethyl)amino)ethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate
A solution of (±)-tert-butyl 4-(1-amino-1-(5-cyano-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoroethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (50 mg, 0.100 mmol) and ethyl glyoxylate (50% in toluene) (39.7 μL, 0.200 mmol) in DCE (1.00 mL) was stirred at room temperature. After 50 minutes MeOH (1 mL) was added followed by NaBH4 (11.36 mg, 0.300 mmol). After 30 minutes additional NaBH4 (4 mg, 0.106 mmol) was added. After 25 more minutes additional NaBH4 (40 mg, 1.06 mmol) was added. After 15 more minutes the reaction was quenched with water, extracted twice with EtOAc, dried with MgSO4, filtered and concentrated. The resulting residue was purified by flash chromatography (0-80% EtOAc in heptanes) to provide the title compound. MS (ESI+) m/z 544.2 (M+H).

reactant | (±)-tert-butyl 4-(1-amino-1-(5-cyano-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoroethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 0.100 mmol, 50 mg | NC(C(F)(F)F)(C1=NC2=C(N1)C=CC(=C2)C#N)C2=C1C=CN(C1=C(C=C2OC)C)C(=O)OC(C)(C)C | C25H24F3N5O3
reactant | ethyl glyoxylate | 0.200 mmol, 39.7 μL | C(C=O)(=O)OCC | C4H6O3
reactant | MeOH | 1 mL | CO | CH4O
reactant | NaBH4 | 0.300 mmol, 11.36 mg | [BH4-].[Na+]
reactant | NaBH4 | 0.106 mmol, 4 mg | [BH4-].[Na+]
reactant | NaBH4 | 1.06 mmol, 40 mg | [BH4-].[Na+]
solvent | DCE | 1.00 mL | ClCCCl | C2H4Cl2
product | (±)-tert-Butyl 4-(1-(5-cyano-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoro-1-((2-hydroxyethyl)amino)ethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(#N)C1=CC2=C(NC(=N2)C(C(F)(F)F)(NCCO)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)C=C1 | C27H28F3N5O4
